US04837333
A solution of 4-methoxybenzyl alcohol (800 g, 5.8 mol) in dry tetrahydrofuran (1200 ml) was added dropwise to a stirred slurry of sodium hydride (280 g of a 60% dispersion in oil, 7.0 mol) in dry tetrahydrofuran (600 ml) at -5° C. and under a gentle stream of dry nitrogen. The resulting slurry was allowed to warm up to room temperature and stirred until hydrogen evolution ceased. The resulting slurry containing sodium alkoxide was cooled to -5° C., and treated with epibromohydrin (860 g, 6.3 mol) at a rate so as to maintain the temperature of the reaction mixture below 5° C. The reaction mixture was allowed to warm gradually to room temperature and was stirred for an additional 12 hours. The reaction mixture was filtered and washed with methanol. The filtrate and washings were combined and evaporated to dryness under reduced pressure to yield a crude product (250 g). The crude product was purified by column chromatography (silica gel, chloroform) to yield 2,3-epoxypropyl-4-methoxybenzyl ether as a pale yellow oil having the following structural characteristics:

reactant | 4-methoxybenzyl alcohol | 5.8 mol, 800 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | epibromohydrin | 6.3 mol, 860 g | C(Br)C1CO1 | C3H5BrO
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 2,3-epoxypropyl-4-methoxybenzyl ether | O1C(CC(C2=CC=C(C=C2)OC)OC(C2=CC=C(C=C2)OC)CC2CO2)C1 | C22H26O5
